US07858623B2
Methyl 5-(bromomethyl)-1-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylate (1.266 g, 3.9 mmol) was dissolved in dichlormethane (30 ml) and pyrrolidine (0.40 ml, 4.8 mmol) was added via syringe. The reaction was stirred under nitrogen at room temperature. After about 20 minutes, more pyrrolidine (0.090 ml, 1.1 mmol) was added, and stirring was continued for 3.5 hours. The reaction was concentrated and purified on silica gel (dichlormethane, MeOH, 2 N ammonia in MeOH) to give the desired methyl 1-methyl-3-oxo-2-phenyl-5-(pyrrolidin-1-ylmethyl)-2,3-dihydro-1H-pyrazole-4-carboxylate (1.182 g, 70% purity by HPLC, 2.62 mmol, 67% yield). MS (ESI pos. ion) m/z: 316 (MH+). Calc'd exact mass for C17H21N3O3: 315.

reactant | Methyl 5-(bromomethyl)-1-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylate | 3.9 mmol, 1.266 g | BrCC1=C(C(N(N1C)C1=CC=CC=C1)=O)C(=O)OC | C13H13BrN2O3
reactant | pyrrolidine | 4.8 mmol, 0.40 ml | N1CCCC1 | C4H9N
reactant | pyrrolidine | 1.1 mmol, 0.090 ml | N1CCCC1 | C4H9N
solvent | dichlormethane | 30 ml | ClCCl | CH2Cl2
product | methyl 1-methyl-3-oxo-2-phenyl-5-(pyrrolidin-1-ylmethyl)-2,3-dihydro-1H-pyrazole-4-carboxylate | 2.62 mmol, 1.182 g, 67% yield | CN1N(C(C(=C1CN1CCCC1)C(=O)OC)=O)C1=CC=CC=C1 | C17H21N3O3
